US05942628
Tetrahydro-2,5-dioxo-3-furansulfonic acid sodium salt was prepared by stirring 1.71 moles of sulfosuccinic acid with 1.87 moles of sodium hydroxide at 50° C. until a milky suspension formed and then adding 1 kg acetic anhydride over 6 hours. After cooling, 1 L of ethyl acetate was added and the mixture was filtered. The filter cake was washed with 500 mL ethyl acetate. On drying 344.32 g of white crystalline product was obtained. 13C-NMR (d6-DMSO) 171.3, 167.2, 60.4, 34.0 ppm.

reactant | sulfosuccinic acid | 1.71 moles | S(=O)(=O)(O)C(C(=O)O)CC(=O)O | C4H6O7S
reactant | sodium hydroxide | 1.87 moles | [OH-].[Na+]
reactant | acetic anhydride | 1 kg | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | Tetrahydro-2,5-dioxo-3-furansulfonic acid sodium salt | [Na+].O=C1OC(CC1S(=O)(=O)[O-])=O | InChI=1S/C4H4O6S.Na/c5-3-1-2(4(6)10-3)11(7,8)9;/h2H,1H2,(H,7,8,9);/q;+1/p-1
